US08729105B2
Preparation of 6-(4-Chloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid
To a solution of 3.0 g 6-(4-chloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid methyl ester in 30 mL tetrahydrofuran was added 14 mL of a 1M solution of lithium hydroxide in water and the mixture was stirred at room temperature for 1 h. The reaction mixture was acidified by addition of 1M hydrochloric acid. The precipitate was collected by filtration washed with water and dried to constant weight under high vacuum to yield 2.36 g of the title compound as white solid, MS 330.3 (M−H)−.

reactant | 6-(4-chloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid methyl ester | 3.0 g | COC(=O)C1=NC(=C(C=C1)OCC(F)(F)F)C1=CC=C(C=C1)Cl | C15H11ClF3NO3
reactant | lithium hydroxide | [OH-].[Li+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 6-(4-Chloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid | 2.36 g | ClC1=CC=C(C=C1)C1=C(C=CC(=N1)C(=O)O)OCC(F)(F)F | C14H9ClF3NO3
